Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
s/p MVC crash
 
Major Surgical or Invasive Procedure:
Left PICC line placement
 
History of Present Illness:
___ yo M w/ h/o mild dementia presents s/p pedestrian struck by 
car moving ___ MPH. On scene, pt found by EMS to be moving all 
extremities but not communicating. On arrival to the emergency 
department the patient is moving all extremities but was not 
following commands and remains nonverbal. Pt was unable to 
express any complaints. Pt was maintaining airway and had normal 
primary survey. CT scans of ___, c-spine, torso were performed, 
revealed small ICH, no c-spine injuries, multiple pubic rami 
fractures, and ? acute extravasation from bleed near adrenal 
gland. Neurosurgery, orthopedics, and interventional radiology 
were consulted regarding the patient's injuries. Pt with labile 
vital signs in ED. Transferred to ICU for further management
 
Past Medical History:
Early stage dementia (competent in own ADLs)
 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
ADMISSION
VS - T 101.7 HR 121 BP 124/64 RR 37 O2 94% 2L NC  
General: elderly male lying in bed in NAD  
HEENT: small abrasion on L temple and bridge of nose  
Neck: supple  
CV: tachycardia, RRR, nrml S1S2  
Lungs: normal chest rise bilat, no subcu crepitus or palpable 
step-offs, stable to AP/Lateral compression, CTA bilat  
Abdomen: soft, NT, ND  
GU: no GU trauma, pelvis stable to compressive force  
Ext: Bilat knees with swelling, L knee with small abrasion  
Neuro: PERRLA but sluggish, moves eyes towards voice, 
withdraws/localizes to pain, does not follow commands given by 
son in own language  
Skin: abrasions as noted above, no rashes  

DISCHARGE
VS: Tmax 99.0, BP 130-153/52-79, HR 70-96, RR ___, O2 92-100%
General: calm, sitting up in bed, alert
HEENT: Sclera anicteric, PERRL, dry mucous membranes
Neck: supple, JVP not elevated, no LAD  
Lungs: clear to auscultation anteriorly, no wheezes, rales, 
rhonchi  
CV: tachycardic, normal S1 + S2, no murmurs, rubs, gallops  
Abdomen: soft, NT/mild distended, (+) bowel sounds  
Ext: WWP, no edema, scrapes on b/l knees, LUE PICC line c/d/I, 
pelvis without TTP, no ecchymoses/edema. Rt knee small patellar 
effusion, not warm, +/- ttp, appeared tender on flexion, no FROM
Neuro/Psych: Alert, responds to greeting, good eye contact

 
Pertinent Results:
ADMISSION
___ 05:57PM   TYPE-ART PO2-77* PCO2-39 PH-7.36 TOTAL CO2-23 
BASE XS--2
___ 05:57PM   LACTATE-1.7 K+-4.4
___ 05:57PM   freeCa-1.19
___ 10:42AM URINE  BLOOD-SM  NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 08:24AM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 08:24AM   WBC-10.0 RBC-3.95* HGB-12.9* HCT-39.9* 
MCV-101* MCH-32.7* MCHC-32.3 RDW-13.1 RDWSD-48.8*
___ 08:24AM   ___ PTT-31.4 ___
___ 08:25AM   GLUCOSE-149* LACTATE-4.1* NA+-145 K+-4.2 
CL--111* TCO2-19*

STUDIES
-CXR (___): IMPRESSION: Low lung volumes with bibasilar 
atelectasis.  Mild elevation of the left hemidiaphragm, of 
unknown chronicity. 

-CT ___ (___): IMPRESSION: 
1. Bilateral fluid density subdural collections along the 
convexities have significantly increased in size compared to ___, indicating interim development of subdural 
hygromas superimposed upon prior small chronic subdural 
hematomas.  New associated frontal and parietal sulcal 
effacement. 
2. The ventricles have slightly decreased in size, likely 
secondary to the 
increase bilateral subdural collections.  Intraventricular blood 
has decreased with trace residual blood remaining. 
3. Bilateral subarachnoid hemorrhage has decreased but not 
resolved.

-CT A/P (___): IMPRESSION: 
1. Injury to the inferior aspect of the lateral limb of the left 
adrenal gland with small adjacent hematoma and tiny focus of 
active extravasation. 
2. Bilateral superior and inferior pubic rami fractures and left 
anterior 
acetabular column fracture with extraperitonal left- sided 
pelvic hematoma. 
3. Widened right sacroiliac joint and left anterolateral sacral 
fracture, not extending to the neural foramen. 
4. Left diaphragmatic hernia containing stomach and colon, of 
uncertain age, but likely chronic. 
5. No pneumothorax, rib fracture or acute thoracic abnormality. 
6. Trace pelvic free fluid. 

-CT C-spine (___): IMPRESSION: No fracture or traumatic 
malalignment.
 
-CT ___ (___): IMPRESSION: Evolution of multifocal 
intraparenchymal hemorrhage and small volume intraventricular 
hemorrhage, as described above, without evidence of impending 
downward herniation. 

-MR ___ spine (___): IMPRESSION  1.  There is no 
evidence of acute cervical fracture or cervical spinal 
malalignment, the signal intensity throughout the cervical 
spinal cord is normal with no evidence of focal or diffuse 
lesions.  There is no evidence of ligamentous injury. 2.  Mild 
multilevel multifactorial degenerative changes throughout the 
cervical spine as described detail above.
 
-MR ___ (___): IMPRESSION:  
1.  Again multiple foci of intraparenchymal hemorrhage are re- 
demonstrated involving the left temporal and parietal lobes, 
interventricular septum. Unchanged underlying left temporal 
parietal subarachnoid hemorrhage, and unchanged intraventricular 
hemorrhage. 
2.  Foci of slow diffusion identified in the right cerebellum, 
colliculus, 
straight gyrus of the left frontal lobe, and left frontal 
convexity, 
suggesting diffuse axonal injuries versus small foci of 
ischemia. 
3.  Confluent areas of high-signal intensity in the subcortical 
white matter demonstrated on T2 and FLAIR sequences, are 
nonspecific and may reflect changes due to small vessel disease. 
 There is a sequela of chronic ischemic hemorrhagic event in the 
left basal ganglia. 
4.  Prominent bilateral extra-axial spaces may represent chronic 
subdural/hygromas 

-CT ___ ___:
  
1. Bilateral fluid density subdural collections along the 
convexities have 
significantly increased in size compared to ___, 
indicating 
interim development of subdural hygromas superimposed upon prior 
small chronic 
subdural hematomas.  New associated frontal and parietal sulcal 
effacement. 
2. The ventricles have slightly decreased in size, likely 
secondary to the 
increase bilateral subdural collections.  Intraventricular blood 
has decreased 
with trace residual blood remaining. 
3. Bilateral subarachnoid hemorrhage has decreased but not 
resolved. 

-CXR (___): IMPRESSION: The tip of the feeding tube remains 
in the stomach.  There is a left sided central line with the 
distal lead tip in the mid SVC.  Heart size is prominent but 
stable. There is elevation of the left hemidiaphragm with 
atelectasis at the lung bases. No pneumothoraces are seen. 

-RUQ U/S (___): IMPRESSION: 1. No evidence of 
cholecystitis. 
2. Sludge fills the gallbladder.  No stones.  Normal CBD. 

-KUB (___): IMPRESSION: Multiple air-filled loops large and 
small bowel throughout the abdomen with somewhat paucity of gas 
in the rectum most consistent with ileus, paucity of gas in the 
rectum may be related to presence of stool.  No evidence of free 
air.  Partially visualized pubic bone fractures are better 
evaluated on the torso CT dated ___. 
The enteric tube tip is seen projecting over the left upper 
quadrant and 
appears somewhat high placed, with the tip pointing cranially, 
however is 
likely within the stomach in this patient with known eventration 
of the left hand diaphragm with a high placed stomach. 

-CT ___ (___):  IMPRESSION: 1. Unchanged appearance of 
bilateral subdural collections along the convexities compared to 
___. 
2. No new hemorrhage. 

-LENIs (___): IMPRESSION: No evidence of deep venous 
thrombosis in the right or left lower extremity veins. 

-Pelvis A/P (___): IMPRESSION: There are fractures 
involving the left superior and inferior pubic rami.  Minimal 
callus formation is seen at the sites.  Known fracture of the 
left sacral ala is not well seen.  There is slight diastases of 
the right sacroiliac joint, better assessed on the prior CT 
scan.  Prominent spurs are again seen at the pubic symphysis.  
There is a nondisplaced fracture of the right inferior pubic 
rami. 

-CTA Chest (___): IMPRESSION: 1. No acute pulmonary embolus 
or acute aortic process. 2. Centrilobular emphysema with mild 
pulmonary fibrosis.
 
-CT A/P (___): IMPRESSION: 
1. No acute intra-abdominal abnormality. Large colonic fecal 
loading. 
2. Increased displacement of left inferior pubic ramus fracture 
since ___. Similar appearance of the comminuted left 
superior pubic ramus fracture and left sacral fractures. Known 
right pubic rami fractures are not as well seen on this study, 
likely owing to slice thickness. 
3. Bibasilar opacities, right more than left, may represent 
infection or aspiration, less likely atelectasis, similar to 
___ but worse than on ___. 
4. Left diaphragmatic hernia is similar to ___

-PORTABLE ABDOMEN Study Date of ___:  Nonspecific bowel 
gas pattern without obstruction, unchanged from ___. 

-KNEE (AP, LAT & OBLIQUE) RIGHT Study Date of ___: 
IMPRESSION:    
No previous images.  The bony structures at the knee joint and 
joint spaces are essentially within normal limits.  There may be 
a small joint effusion. Several small opacifications projected 
over the midportion of the knee joint on the frontal view could 
well represent free joint bodies.  Adjacent to the upper portion 
of the lateral condyle is a curvilinear opacification that most 
likely represents sequela of a previous avulsion injury.  If 
there are specific acute symptoms referable to this area, the 
possibility of an acute avulsion could be considered. 
Several old healed fibular fractures are seen. 
  

MICROBIO:
-URINE CULTURE (Final ___: 
      ESCHERICHIA COLI.    >100,000 ORGANISMS/ML.. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------  =>32 R
AMPICILLIN/SULBACTAM--    16 I
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----  =>16 R

-C. difficile DNA amplification assay (Final ___: 
      Negative for toxigenic C. difficile by the Illumigene DNA
      amplification assay. 

-blood cultures (___): negative

DISCHARGE
___ 05:11AM BLOOD WBC-6.1 RBC-2.98* Hgb-8.9* Hct-29.7* 
MCV-100* MCH-29.9 MCHC-30.0* RDW-16.9* RDWSD-61.7* Plt ___
___ 05:11AM BLOOD Glucose-114* UreaN-19 Creat-1.0 Na-141 
K-4.5 Cl-107 HCO3-23 AnGap-16
___ 05:02AM BLOOD LD(LDH)-251* TotBili-0.5 DirBili-0.2 
IndBili-0.3
___ 05:11AM BLOOD Calcium-8.8 Phos-3.3 Mg-2.3
___ 05:02AM BLOOD CRP-31.5*
 
Brief Hospital Course:
Mr. ___ is an ___ ___ speaking w/PMHx of 
early-dementia presenting on ___ after ___ found to have b/l 
subdural hematomas, multiple pelvic fx, who was transferred to 
medicine with fevers and altered mental status and was found to 
have pneumonia and a UTI. He completed an 8 day course of 
vanc/cefepime for HCAP and complicated UTI. His course was 
complicated by prolonged hypoactive delirium. He has been slow 
to respond and although he has shown improvement in level of 
alertness and speech, he remains altered, AAOx0-1, and less 
interactive and oriented than his baseline. Seen by Ortho, who 
determined no surgical intervention was for his pelvic fracture. 
Intermittent tachycardia and tachypnea (without hypoxia), most 
likely secondary to pain and agitation, lower extremity venous 
Doppler ultarsound and CTA neg for DVT/PE. Increased 
LDH/GGT/AlkP most likely ___ brief cholecystatic biliary 
picture, imaging showing some mild GB sludge. 

# Sepsis: on ___ patient triggered on ACS service for fever 
to 103. Met all 4 SIRS criteria. Possible sources included 
urinary given culture significant for  E. coli with resistance 
to Bactrim vs HCAP/aspiration given lower lobe consolidation CXR 
findings vs RUQ pathology given elevated bilirubin. He was 
started on broad-spectrum antibiotics with vancomycin and zosyn 
for x8 day course due to c/f HCAP along with standing IV Tylenol 
to help alleviate fever. A RUQ U/S revealed gallbladder sludge 
without evidence of liver pathology or inflammation/infection. 
His LFTs were trended and his bilirubin returned to normal. His 
WBC trended down to normal. During treatment, patient's 
platelets trended up and given concern for Zosyn side-effect, he 
was transitioned to cefepime. He completed a full x8 day course 
of antibiotics and remained afebrile. Thrombocytosis is 
resolving at time of discharge (672 on discharge, ~1000 at 
peak).

# Elevated alk phos: patient was noted to have elevated alk phos 
(peak at 250) in the setting of normal transaminases and no 
abdominal pain. GGT was found to be elevated, suggesting hepatic 
origin of alk phos. RUQ U/S revealed gallbladder sludge in the 
setting of prolonged poor oral intake. Given no hepatic findings 
on RUQ U/S, thought gallbladder sludge most likely etiology of 
elevation. His alk phos was trended and downtrended to 195 on 
___. He had no abdominal pain, nausea, or vomiting for the 
duration of his hospital course, and was able to tolerate his 
diet.  

# Elevated LDH: Broad differential for elevated LDH in this 
patient including neurologic ___ cerebral hemorrhage vs 
gastrointestinal including pancreatitis vs bowel obstruction vs 
hepatitis vs hematologic  vs resorption of pelvic hematoma vs 
ineffective erythropoiesis vs PE vs trauma. Hemolysis labs were 
sent which showed high haptoglobin, high ferritin, low iron c/w 
mixed iron deficiency/inflammation picture. Reticulocyte count 
was normal. His LDH was monitored closely and stably downtrended 
to 250 on day of discharge. 

# Thrombocytosis: Platelets normal on admission and were noted 
to be significantly increasing, nearly 1000k at peak. Most 
likely reactive in setting of infection vs trauma vs 
medication-induced vs anemia. Review was notable for increase 
correlating with initiation of antibiotics and Zosyn known to 
induce thrombocytosis so this was changed to cefepime. His 
platelets were trended and downtrended over the rest of his 
admission.

# Tachycardia: toward end of treatment with antibiotics, patient 
was noted to be persistently in 100s. Possible etiologies 
include pain vs dehydration vs PE/DVT given trauma and not 
receiving anticoagulation. Lower extremity venous Doppler 
ultrasound and CT angiogram of the chest were negative for 
DVT/PE. He received IVF boluses and his pain was controlled with 
Tylenol/tramadol PRN.  

# Abdominal distension: On day of transfer to medical service, 
abdominal exam was significant for mild-moderate distension. Per 
nursing, patient having small daily bowel movements. A KUB was 
notable for colonic distension on CXR c/f ileus vs obstruction. 
Review of medication record revealed minimal narcotic 
administration. His tube feeds were held and KUBs were trended, 
revealing resolution of his distension. He was evaluated by 
speech and swallow who felt patient was safe for thickened 
liquids. Given concern for hypersensitivity to narcotics, his 
pain was treated with Tylenol and tramadol PRN. He tolerated po 
feeding well with no recurrence in distension. 
 
# Altered mental status: per son, pt is normally AAOx3 and 
independent at baseline. On transfer. On ACS was evaluated by 
Neurology and monitored on EEG; initially showed short runs of 
epileptiform activity, not meeting criteria for seizure, but on 
continued monitoring EEG continued to improve and was able to be 
discontinued. Given no concrete seizure activity, no 
anti-epileptic medications were started. During stay, mental 
status continued to improve until patient became extremely 
delirious in the setting of sepsis. He was monitored closely on 
delirium precautions and had clearing of his mental status as 
his infection improved. Patient was started on Seroquel 12.5mg 
qhs and increased bowel regimen and became increasingly lucid 
(improved level of alertness, participating in exam and 
interview, although still below baseline level of cognition and 
orientation), was AAox1 at time of DC.

# Intracranial hemorrhage: on presentation, patient was noted to 
have bilateral subacute subdural hemorrhages. He had no focal 
neurologic signs; however he was noted to be AAOx0-1 for much of 
his hospitalization while his baseline is AAOx3. He was 
evaluated by Neurosurgery who felt no surgical interventions 
were needed. He was monitored with repeat CT ___ studies which 
showed stabilization of hemorrhages. Neurosurgery will follow 
the patient as an outpatient, and recommended a repeat CT ___ 
in x8 weeks at time of follow-up. Appt has been scheduled. 

# Pelvic fracture: on admission, patient was noted to have left 
LC1 pelvic fracture, right mild SI joint widening and superior 
pubic ramus fracture. Ortho was consulted. Given that the 
patient was neurovascularly intact on exam, it was felt that 
surgical intervention could be deferred pending improvement in 
overall health. Following treatment of sepsis and moderate 
improvement in mental status, patient began working with 
Physical Therapy to determine extent of right-sided 
weight-bearing status and need for further orthopedic 
intervention. Repeat imaging had shown possible worsening of the 
fracture, ortho determined no surgical intervention was still 
necessary. Pt was found to have Rt knee pain as well; X-rays 
were done and Ortho determined this to be nonspecific 
contraction and avulsion fracture of lateral femoral condyle, 
reviewed imaging, determined also to not require surgical 
intervention.

**TRANSITIONAL ISSUES***
-Pt will follow up with Neurosurgery with Dr. ___ in 8 weeks 
with repeat ___ for f/u on intracranial hem
-Pt will f/u with Dr. ___ in Orthopedics in 2 weeks for 
f/u of his fractures
- Given patient's underlying dementia and advanced age, and the 
severe injury he sustained with hospital course complicated by 
sepsis, he has had severe hypoactive delirium and has been slow 
to respond. See mental status noted above. It is unclear at this 
time where his peak mental status baseline will be, but he will 
have a prolonged recovery. 
-Pt's home Mirtazipine and Risperdone was DC'd in the hospital, 
pt was started on Seroquel 12.5mg qhs, appeared to have improved 
mental status. Unclear if this assisted, attempted to contact 
pt's primary psychiatrist, Dr. ___ (___), 
spoke with her on day of DC, she stated that pt was irritable 
and that Mirtazipine and Risperdone had helped make pt more 
sociable. Pt was stable and appeared to be improving on Seroquel 
at DC

# CODE: Full
# CONTACT: ___ ___ - cell

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Mirtazapine 15 mg PO QHS 
2. Cyanocobalamin 50 mcg PO DAILY 
3. RISperidone 1 mg PO DAILY 

 
Discharge Medications:
1. QUEtiapine Fumarate 12.5 mg PO QHS 
2. Acetaminophen 650 mg PO Q6H 
3. Bisacodyl 10 mg PR QHS:PRN constipation 
4. Senna 8.6 mg PO BID constipation 
5. Cyanocobalamin 50 mcg PO DAILY 
6. Docusate Sodium 100 mg PO BID 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY:
B/L Subdural Hematomas and Multiple Pelvic Fractures due to ___
HCAP
UTI
Sepsis

SECONDARY:
Early Onset Dementia

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Lethargic but arousable.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ after you were hit by a car. You were 
found to have bleeding in and around your brain. Fortunately, on 
a repeat CT scan image of the ___, the bleeding did not worsen 
over time, and so you did not require surgery for your brain 
bleeding.  You also developed pneumonia and a UTI while in the 
hospital that were treated with antibiotics and your infection 
appeared to have cleared as you were no longer having fevers or 
other symptoms of infection. Our orthopedic surgeons evaluated 
your multiple pelvic fractures and knee pain, and determined 
that you would not need surgery but would improve with physical 
therapy. We started you on a new medication at night called 
Seroquel, to help improve your mental status and help you have a 
normal sleep cycle, and it appears to have helped over the first 
several days. 

It was a pleasure taking care of you!

We hope you get better and stronger in Rehab!

___!

Your ___ Team
 
Followup Instructions:
___